US07893056B2
To a solution of phenylmethyl octahydro-1(2H)-quinoxalinecarboxylate (enantiomeric mixture) (2.32 g, 8.5 mmol) in dichloromethane (80 mL) at 0° C. was added formaldehyde (0.76 mL, 37% water solution, 10.2 mmol) followed by sodium triacetoxyborohydride (2.7 g, 12.75 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 1 h before being diluted with dichloromethane and washed with 1N NaOH solution. The organics were washed with brine, dried (Na2SO4) and evaporated to yield 2.3 g of phenylmethyl 4-methyloctahydro-1(2H)-quinoxalinecarboxylate (enantiomeric mixture, cis) (2.3 g), which was separated by chiral LC to afford phenylmethyl (4aS,8aR)-4-methyloctahydro-1(2H)-quinoxalinecarboxylate, and phenylmethyl (4aR,8aS)-4-methyloctahydro-1(2H)-quinoxalinecarboxylate. Absolute configuration was assigned using Ab Initio vibrational circular dichroism. LCMS: (M+H)+: 289.2.

reactant | phenylmethyl octahydro-1(2H)-quinoxalinecarboxylate | 8.5 mmol, 2.32 g | N1(CCNC2CCCCC12)C(=O)OCC1=CC=CC=C1 | C16H22N2O2
reactant | formaldehyde | 10.2 mmol, 0.76 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 12.75 mmol, 2.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | phenylmethyl 4-methyloctahydro-1(2H)-quinoxalinecarboxylate | 2.3 g | CN1CCN(C2CCCCC12)C(=O)OCC1=CC=CC=C1 | C17H24N2O2
